US04159331
In the manner given in Example 1A, p-nitrobenzenesulfonyl chloride, 1-(o-bromophenyl)piperazine and triethylamine are stirred at reflux to give 1-[(p-nitrophenyl)sulfonyl]-4-(o-bromophenyl)piperazine.

reactant | p-nitrobenzenesulfonyl chloride | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | 1-(o-bromophenyl)piperazine | BrC1=C(C=CC=C1)N1CCNCC1 | C10H13BrN2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 1-[(p-nitrophenyl)sulfonyl]-4-(o-bromophenyl)piperazine | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C1=C(C=CC=C1)Br | C16H16BrN3O4S
